US07737149B2
A solution of potassium hydroxide (4.5M in water, 1.8 ml, 8.10 mmol, 8.10 eq) was added to a stirred solution of 5-(2-{5-[(dimethylamino)methyl]-2-furyl}ethyl)-1H-pyrazol-3-amine (235 mg, 1.0 mmol, 1.0 eq) in dichloromethane at room temperature. A solution of di-tert-butyl dicarbonate (230 mg, 1.05 mmol, 1.05 eq) in dichloromethane (2.0 ml) was then added and the reaction mixture stirred vigorously for 18 h. The reaction mixture was poured into a separating funnel and the layers were separated. The dichloromethane layer was washed with water (10 ml) and saturated brine (10 ml), dried over anhydrous sodium sulphate, filtered and the solvent removed in vacuo to afford tert-butyl 5-amino-3-(2-{5-[(dimethylamino)methyl]-2-furyl}ethyl)-1H-pyrazole-1-carboxylate as a golden oil, (320 mg).

reactant | potassium hydroxide | 8.10 mmol, 4.5M, 1.8 ml, 8.10 eq | [OH-].[K+]
reactant | 5-(2-{5-[(dimethylamino)methyl]-2-furyl}ethyl)-1H-pyrazol-3-amine | 1.0 mmol, 235 mg, 1.0 eq | CN(C)CC1=CC=C(O1)CCC1=CC(=NN1)N | C12H18N4O
reactant | di-tert-butyl dicarbonate | 1.05 mmol, 230 mg, 1.05 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | tert-butyl 5-amino-3-(2-{5-[(dimethylamino)methyl]-2-furyl}ethyl)-1H-pyrazole-1-carboxylate | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC=1OC(=CC1)CN(C)C | C17H26N4O3
